US09145414B2
A 2 M ammonia-methanol solution (3 ml) was added to a solution of ethyl 3-(methylthio)-5-(quinolin-6-ylamino)-1,2,4-triazine-6-carboxylate obtained in the above-described Step 1 (150 mg) in THF (0.5 ml), and then the reaction solution was stirred in a microwave reactor at 130° C. for 30 minutes. The precipitate was filtrated to obtain 3-(methylthio)-5-(quinolin-6-ylamino)-1,2,4-triazine-6-carboxamide as a crude white solid.

reactant | ammonia methanol | 2 M, 3 ml | N.CO
reactant | ethyl 3-(methylthio)-5-(quinolin-6-ylamino)-1,2,4-triazine-6-carboxylate | CSC=1N=NC(=C(N1)NC=1C=C2C=CC=NC2=CC1)C(=O)OCC | C16H15N5O2S
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 3-(methylthio)-5-(quinolin-6-ylamino)-1,2,4-triazine-6-carboxamide | CSC=1N=NC(=C(N1)NC=1C=C2C=CC=NC2=CC1)C(=O)N | C14H12N6OS
